US04980464
In a mixture of 4 ml of formamide and 4 ml of acetonitrole was suspended 423 mg of sodium 7β-[2-(2-aminothiazol-4-yl)acetamido]-3-hydroxymethyl-3-cephem-4-carboxylate.dihydrate. To the suspension were added in sequence 315 mg of 1-(2-dimethylaminoethyl)-5-mercapto-1H-tetrazole hydrochloride, 0.45 ml of trimethyl phosphite and 0.20 ml of ether solution of hydrogen chloride (5 mol./l). The mixture was stirred at 20~25° C. for 1.5 hour, and there was added 5 ml of water, followed by concentration under reduced pressure at 20 to 25° C. To the concentrated solution was added 50 ml of water, whose pH was adjusted to 5.8 with 1N NaOH, followed by subjecting the resultant to an Amberlite XAD-2 column chromatography, eluting with a mixture of water and acetone (4:1,v/v). Fractions containing the end product were combined, concentrated under reduced pressure and then freeze-dried to give 7β-[ 2-(2-aminothiazol-4-yl) acetamido]-3-[1-(2-dimethylaminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid.

reactant | sodium 7β-[2-(2-aminothiazol-4-yl)acetamido]-3-hydroxymethyl-3-cephem-4-carboxylate | 423 mg | NC=1SC=C(N1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CO)C(=O)[O-])C1=O.[Na+]
reactant | 1-(2-dimethylaminoethyl)-5-mercapto-1H-tetrazole hydrochloride | 315 mg | Cl.CN(CCN1N=NN=C1S)C
reactant | trimethyl phosphite | 0.45 ml | P(OC)(OC)OC | C3H9O3P
reactant | hydrogen chloride | 5 mol | Cl | ClH
solvent | formamide | 4 ml | C(=O)N | CH3NO
solvent | water | 5 ml | O | H2O
solvent | ether | 0.20 ml | CCOCC | C4H10O
product | 7β-[ 2-(2-aminothiazol-4-yl) acetamido]-3-[1-(2-dimethylaminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | NC=1SC=C(N1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCN(C)C)C(=O)O)C1=O | C18H23N9O4S3
